US07169773B2
{3-[(1-methyl-1H-indazol-3-yl)methyl]-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-1H -1,5-benzodiazepin-1-yl}acetic acid
tert-butyl 3-({1-[2-(benzyloxy)-2-oxoethyl]-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-1H -1,5-benzodiazepin-3-yl}methyl)-1H-indazole-1-carboxylate (0.6 g, 0.95 mM) were dissolved in 10 ml of ethyl acetate and 50 mg of 10% Pd/C were added. Reaction mixture was hydrogenated at atm. Pressure overnight. Catalyst was removed by filtration and was solvent evaporated under reduced pressure. 0.44 g of product was obtained.

reactant | tert-butyl 3-({1-[2-(benzyloxy)-2-oxoethyl]-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-1H -1,5-benzodiazepin-3-yl}methyl)-1H-indazole-1-carboxylate | 0.95 mM, 0.6 g | C(C1=CC=CC=C1)OC(CN1C(C(C(N(C2=C1C=CC=C2)C2=CC=CC=C2)=O)CC2=NN(C1=CC=CC=C21)C(=O)OC(C)(C)C)=O)=O | C37H34N4O6
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | {3-[(1-methyl-1H-indazol-3-yl)methyl]-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-1H -1,5-benzodiazepin-1-yl}acetic acid | 0.44 g | CN1N=C(C2=CC=CC=C12)CC1C(N(C2=C(N(C1=O)CC(=O)O)C=CC=C2)C2=CC=CC=C2)=O | C26H22N4O4
